US05843942
Ethyl 4-(2-benzyloxypyrazin-3-ylmethylamino)benzoate (455 mg) was dissolved in dry DMF (4 mL) and added to a suspension of sodium hydride (51 mg of a 60% dispersion in mineral oil) in DMF (4 mL) precooled to 0° C. under argon dropwise over fifteen minutes. After stirring for thirty minutes at 0° C. ethyl iodide (0.12 mL) was added and the mixture stirred for 36 hours. The solution was poured into water (50 mL) and the mixture made acidic with glacial acetic acid. The organic phase was then extracted with ethyl acetate (3×50 mL), washed with water (50 mL) and brine (50 mL) and dried (MgSO4). After removal of the solvent, the residue was purified by MPLC (eluting 20% ethyl acetate in hexane, silica) to give ethyl 4-(1-(2-benzyloxypyrazin-3-yl)prop-1-ylamino)benzoate as an oil which was used in the next step without further purification, (260 mg).

reactant | Ethyl 4-(2-benzyloxypyrazin-3-ylmethylamino)benzoate | 455 mg | C(C1=CC=CC=C1)OC1=NC=CN=C1CNC1=CC=C(C(=O)OCC)C=C1 | C21H21N3O3
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl iodide | 0.12 mL | C(C)I | C2H5I
reactant | water | 50 mL | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 4-(1-(2-benzyloxypyrazin-3-yl)prop-1-ylamino)benzoate | C(C1=CC=CC=C1)OC1=NC=CN=C1C(CC)NC1=CC=C(C(=O)OCC)C=C1 | C23H25N3O3
